US08754209B2
To a stirred solution of 6-(4-(2,5-dimethylfuran-3-carboxamido)phenyl)-N-(2-morpholinoethyl)-1H-indazole-3-carboxamide (38 mg, 78 umol) in tetrahydrofuran (1 Ml), 4N hydrochloric acid solution in dioxane (20 μl) was added at room temperature. After 30 min, the resulting solid was filtered and dried to give 6-(4-(2,5-dimethylfuran-3-carboxamido)phenyl)-N-(2-morpholinoethyl)-1H-indazole-3-carboxamide hydrochloride (35 mg).

reactant | 6-(4-(2,5-dimethylfuran-3-carboxamido)phenyl)-N-(2-morpholinoethyl)-1H-indazole-3-carboxamide | 78 umol, 38 mg | CC=1OC(=CC1C(=O)NC1=CC=C(C=C1)C1=CC=C2C(=NNC2=C1)C(=O)NCCN1CCOCC1)C | C27H29N5O4
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dioxane | 20 μl | O1CCOCC1 | C4H8O2
product | 6-(4-(2,5-dimethylfuran-3-carboxamido)phenyl)-N-(2-morpholinoethyl)-1H-indazole-3-carboxamide hydrochloride | 35 mg | Cl.CC=1OC(=CC1C(=O)NC1=CC=C(C=C1)C1=CC=C2C(=NNC2=C1)C(=O)NCCN1CCOCC1)C | InChI=1S/C27H29N5O4.ClH/c1-17-15-23(18(2)36-17)26(33)29-21-6-3-19(4-7-21)20-5-8-22-24(16-20)30-31-25(22)27(34)28-9-10-32-11-13-35-14-12-32;/h3-8,15-16H,9-14H2,1-2H3,(H,28,34)(H,29,33)(H,30,31);1H
